US05352712
hydroxycyclohexylphenyl ketone;
hydroxymethylphenylpropanone; dimethoxyphenylacetophenone; 2-methyl-1-[4-(methylthio)phenyl]-2-morpholino-propanone-1; 1-(4-isopropylphenyl)-2-hydroxy-2-methylpropan-1-one; 1- (4-dodecylphenyl) -2-hydroxy-2-methylpropan-1-one; 4-(2-hydroxyethyoxy)phenyl-2(2-hydroxy-2-propyl)ketone;diethoxyphenyl acetophenone; and mixtures of these.

reactant | hydroxymethylphenylpropanone | OCC(C(C)=O)C1=CC=CC=C1 | C10H12O2
reactant | dimethoxyphenylacetophenone | COC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OC | C16H16O3
reactant | 1-(4-isopropylphenyl)-2-hydroxy-2-methylpropan-1-one | C(C)(C)C1=CC=C(C=C1)C(C(C)(C)O)=O | C13H18O2
reactant | 1- (4-dodecylphenyl) -2-hydroxy-2-methylpropan-1-one | C(CCCCCCCCCCC)C1=CC=C(C=C1)C(C(C)(C)O)=O | C22H36O2
reactant | diethoxyphenyl acetophenone | C(C)OC(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)OCC | C18H20O3
product | hydroxycyclohexylphenyl ketone | OC=1C(=C(C=CC1)C(=O)C1=C(C(=CC=C1)O)C1CCCCC1)C1CCCCC1 | C25H30O3
